US07713994B2
To a suspension of (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (0.11 g, 0.39 mmol) and 3-fluoro-4-methoxy-benzylamine hydrochloride (75 mg, 0.39 mmol) in tetrahydrofuran (5 mL) is added triethylamine (0.13 mL, 0.98 mmol). After 15 minutes of stirring, the solvent is evaporated under reduced pressure. The solid material is collected by Buchner filtration, washed successively with diethyl ether, water, and methanol, and then dried under house vacuum to give (4Z)-6-bromo-4-{[(3-fluoro-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione as an off-white solid (0.11 g, 69%).

reactant | (4E)-6-bromo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.39 mmol, 0.11 g | BrC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8BrNO3
reactant | 3-fluoro-4-methoxy-benzylamine hydrochloride | 0.39 mmol, 75 mg | Cl.FC=1C=C(CN)C=CC1OC
reactant | triethylamine | 0.98 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (4Z)-6-bromo-4-{[(3-fluoro-4-methoxybenzyl)amino]methylene}isoquinoline-1,3(2H,4H)-dione | 0.11 g, 69% | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(=C(C=C1)OC)F | C18H14BrFN2O3
